US05708034
b. 5-Carboxy-2-fluorobenzenesulfinic acid
15.6 g (0.124 mol) of sodium sulfite are dissolved in 120 ml of water at 70° C. While maintaining the temperature, 23.8 g (0.1 mol) of 4-fluoro-3-chlorosulfonylbenzoic acid and 10N NaOH are added simultaneously and in portions such that the pH is kept between 9 and 10 (exothermic reaction). The mixture is stirred for a further 3 hours at 70° C., stirred for a further 15 minutes with active carbon and then filtered. The filtrate is adjusted to pH 0-1 using concentrated hydrochloric acid with external cooling and the crystalline 5-carboxy-2-fluorobenzenesulfinic acid is filtered off.

reactant | sodium sulfite | 0.124 mol, 15.6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-fluoro-3-chlorosulfonylbenzoic acid | 0.1 mol, 23.8 g | FC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)Cl | C7H4ClFO4S
reactant | NaOH | 10N | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
product | 5-Carboxy-2-fluorobenzenesulfinic acid | C(=O)(O)C=1C=CC(=C(C1)S(=O)O)F | C7H5FO4S
